US04218476
(a) N-mesityl-N-methylethenesulphonamide
22.5 g (0.1 mole) N-mesitylethenesulphonamide, 37.2 g anhydrous sodium carbonate, 52 ml methyl iodide and 1000 ml acetone were mixed and refluxed for 6 hours. The mixture was then filtered and evaporated to dryness. The residue was dissolved in diethyl ether and extracted with 2 N sodium hydroxide solution (to remove remaining starting material). The ether solution was dried over magnesium sulphate and evaporated to dryness. 24.0 g of the crude title compound was obtained as an oil, which solidifies slowly. M.p. c.a. 25° C.

reactant | N-mesitylethenesulphonamide | 0.1 mole, 22.5 g | C1(=C(C(=CC(=C1)C)C)NS(=O)(=O)C=C)C | C11H15NO2S
reactant | sodium carbonate | 37.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl iodide | 52 ml | CI | CH3I
solvent | acetone | 1000 ml | CC(=O)C | C3H6O
product | N-mesityl-N-methylethenesulphonamide | 24.0 g | C1(=C(C(=CC(=C1)C)C)N(S(=O)(=O)C=C)C)C | C12H17NO2S
